US09388140B2
To a stirred solution of 4-(4-nitro-1H-benzimidazol-1-yl)benzonitrile (1.2 g, 4.54 mmol) in ethanol (100 mL) at rt was added Pd/C 10% (96 mg) in one portion and the mixture was stirred under a hydrogen atmosphere at normal pressure for 26 h. The suspension was filtered, and the solution was evaporated. Purification of the residue by flash chromatography yielded 4-(4-amino-1H-benzimidazol-1-yl)benzonitrile (0.45 g, 42.3%).

reactant | 4-(4-nitro-1H-benzimidazol-1-yl)benzonitrile | 4.54 mmol, 1.2 g | [N+](=O)([O-])C1=CC=CC=2N(C=NC21)C2=CC=C(C#N)C=C2 | C14H8N4O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 96 mg | [Pd] | Pd
product | 4-(4-amino-1H-benzimidazol-1-yl)benzonitrile | 0.45 g, 42.3% | NC1=CC=CC=2N(C=NC21)C2=CC=C(C#N)C=C2 | C14H10N4
